US06043242
1. {3-Methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)propylsulfanyl]pyridin-2-yl}methanol
10.9 g of sodium hydride (80% strength suspension) are suspended in 350 ml of tetrahydrofuran under a nitrogen atmosphere. A solution of 73 g (0.31 mol) of [4-(3-mercaptopropylsulfanyl)-3-methylpyridin-2-yl]methanol in tetrahydrofuran (350 ml) is then added dropwise with vigorous stirring at room temperature during the course of 2 h. The suspension is then stirred at room temperature for a further 2.5 h. A solution of 51.6 g (0.26 mol) of 6-chloro-3-nitroimidazo[1,2-b]pyridazine in tetrahydrofuran (1000 ml) is then added dropwise during the course of 3.5 h and the mixture is stirred at room temperature for a further 18 h. The mixture is then cooled to 0° C. and cautiously treated with water (500 ml) with vigorous stirring. The organic solvent is then distilled off. The aqueous residue is diluted with a further 500 ml of water and cooled to 0° C. The beige precipitate is filtered off, washed with water and dried in a high vacuum at 40° C. The crude product is then dissolved in hot toluene (1.2 l) and clarified with activated carbon (25 g) and kieselguhr (15 g). After filtration at boiling heat, the solution is concentrated to 750 ml and treated with diisopropyl ether (1.2 l). For complete precipitation, the suspension is cooled to 0° C. with stirring. The precipitate is filtered off and then dried in vacuo at 40° C. For further purification, the product is suspended in hot methanol (1.2 l) and treated again with diisopropyl ether (500 ml) after cooling to room temperature. After filtration and drying in vacuo, 82 g (80%) of the title compound of m.p. 127-129° C. are isolated.

reactant | sodium hydride | 10.9 g | [H-].[Na+]
reactant | [4-(3-mercaptopropylsulfanyl)-3-methylpyridin-2-yl]methanol | 0.31 mol, 73 g | SCCCSC1=C(C(=NC=C1)CO)C | C10H15NOS2
reactant | 6-chloro-3-nitroimidazo[1,2-b]pyridazine | 0.26 mol, 51.6 g | ClC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C6H3ClN4O2
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | {3-Methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)propylsulfanyl]pyridin-2-yl}methanol | CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])CO | C16H17N5O3S2
